US04263395
120 g of N-vinylcarbazole.
The reaction mixture is heated on a waterbath to 75° C. Subsequently, a mixture of 60 g of methyl acrylate and 20 g of β-hydroxyethyl acrylate is added dropwise in 30 min from one dropping funnel and simultaneously 40 ml of a 2.5% by weight aqueous solution of 4,4'-azo-bis(4-cyanovaleric acid) are added dropwise from the other dropping funnel. The temperature of the reaction mixture rises to 80° C. and some reflux takes place. The reaction mixture is kept 20 min at 80° C. and then raised to 90° C. and kept at that temperature for 3 h. The reaction mixture is then stirred overnight and allowed to cool down to room temperature. The precipitate formed is sucked off and treated with a mixture of 900 ml of tetrahydrofuran, 900 ml of methanol, and 900 ml of a 5% by weight solution of sodium chloride. The soft copolymer precipitate that becomes brittle is separated by decantation and washed thrice with water.

reactant | methyl acrylate | 60 g | C(C=C)(=O)OC | C4H6O2
reactant | β-hydroxyethyl acrylate | 20 g | C(C=C)(=O)OCCO | C5H8O3
reactant | 4,4'-azo-bis(4-cyanovaleric acid) | N(=NC(CCC(=O)O)(C)C#N)C(CCC(=O)O)(C)C#N | C12H16N4O4
reactant | sodium chloride | [Cl-].[Na+]
reactant | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | methanol | 900 ml | CO | CH4O
product | N-vinylcarbazole | C(=C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H11N
